US07375087B2
To a solution of 2-benzyloxycarbonylamino-2-methylpropionic acid (0.5 g) in dichloromethane (5 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.61 g), 1-hydroxybenzotriazole (0.43 g) and 2-aminoethanol (1.16 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added water, and the resulting mixture was extracted with dichloromethane. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (5 mL). To the solution was added 10% palladium-carbon powder (0.10 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 2-(2-amino-2-methylpropionylamino)ethanol (0.11 g). To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole (70 mg) in N,N-dimethylformamide (0.5 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (32 mg), 1-hydroxybenzotriazole (23 mg) and 2-(2-amino-2-methylpropionylamino)ethanol (0.11 g), and the mixture was stirred at room temperature overnight. The insoluble material was removed by filtration, 5 mol/L aqueous sodium hydroxide solution (0.25 mL) was added to the filtrate, and the resulting mixture was stirred at room temperature for 1 hour. To the mixture was added acetic acid (0.09 mL), and the mixture was diluted with water (1 mL). The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol=90/10-10/90) to give 3-(β-D-glucopyranosyloxy)-4-(4-{(1E)-3-[1-(2-hydroxyethylcarbamoyl)-1-methylethylcarbamoyl]prop-1-enyl}phenyl)methyl)-5-isopropyl-1H-pyrazole (14 mg). This material was dissolved in methanol (0.5 mL). To the solution was added 10% palladium-carbon powder (7 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (11 mg).

reactant | 2-benzyloxycarbonylamino-2-methylpropionic acid | 0.5 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.61 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.43 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-aminoethanol | 1.16 g | NCCO | C2H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(2-amino-2-methylpropionylamino)ethanol | 0.11 g | NC(C(=O)NCCO)(C)C | C6H14N2O2
